US06376472B1
267 mg 2-[(3R)-3-aminopyrrolidin-1-yl]-5-trifluoromethylpyridine, 331 mg 6-chloropurineriboside, 233 mg triethylamine, and 0.5 mL ethanol are combined and heated in a sealed vessel at 100° C. for about 5 hours. The mixture is cooled, partioned between methylene chloride (with some isopropyl alcohol added) and sodium bicarbonate. The organic layer is washed with brine, dried over magnesium sulfate, evaporated, and the residue purified by flash chromatography, eluting with 5% methanol in methylene chloride, to give (2R,3S,4R,5R)-2-hydroxymethyl-5-[6-[1-(5-trifluoromethylpyridin-2-yl)-pyrrolidin-3(R)-ylamino]purin-9-yl]tetrahydrofuran-3,4-diol, as the hemihydrate, m.p. 166-170° C.

reactant | 2-[(3R)-3-aminopyrrolidin-1-yl]-5-trifluoromethylpyridine | 267 mg | N[C@H]1CN(CC1)C1=NC=C(C=C1)C(F)(F)F | C10H12F3N3
reactant | 6-chloropurineriboside | 331 mg | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | triethylamine | 233 mg | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | (2R,3S,4R,5R)-2-hydroxymethyl-5-[6-[1-(5-trifluoromethylpyridin-2-yl)-pyrrolidin-3(R)-ylamino]purin-9-yl]tetrahydrofuran-3,4-diol | OC[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C2=NC=NC(=C2N=C1)N[C@H]1CN(CC1)C1=NC=C(C=C1)C(F)(F)F | C20H22F3N7O4
